US07087599B2
A solution of crude 2-butyl-4-chloro-6-fluoro-5-methoxy-1-indanone (386 mg, 1.4 mmol) in tetrahydrofuran (2.8 mL) was treated with methyl vinyl ketone (0.150 mL, 1.78 mmol) and 0.5N sodium methoxide in methanol (1.1 mL, 0.56 mmol). The mixture was stirred at room temperature for 5.5 hours to effect conversion to 2-butyl-4-chloro-6-fluoro-5-methoxy-2-(3-oxobutyl)-1-indanone. The reaction mixture was diluted with toluene (10 mL), treated with pyrrolidine (0.117 mL, 1.4 mmol) and acetic acid (0.112 mmol, 1.46 mmol), and then stirred and heated in an oil bath at 80° C. for 3 hours. After storing overnight at room temperature, the mixture was partitioned between EtOAc (50 mL) and water (50 mL). The organic phase was washed with 0.1N HCl (50 mL), saturated aqueous NaHCO3 (50 mL) and brine (20 mL), dried over MgSO4, filtered, and evaporated under vacuum. The oily residue was purified by preparative layer chromatography on four 0.1×20×20 cm silica gel GF plates, developing with 5% EtOAc in CH2Cl2. The product bands were combined, eluted with EtOAc, and the eluent evaporated under vacuum to provide 9a-butyl-8-chloro-6-fluoro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one (160 mg) as a solid. 1H NMR spectroscopy revealed that the product contained a minor amount of the isomeric product 9a-butyl-6-chloro-8-fluoro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one which is derived from a minor amount of 2-butyl-6-chloro-4-fluoro-5-methoxy-1-indanone in the starting material.

reactant | 2-butyl-4-chloro-6-fluoro-5-methoxy-1-indanone | 1.4 mmol, 386 mg | C(CCC)C1C(C2=CC(=C(C(=C2C1)Cl)OC)F)=O | C14H16ClFO2
reactant | methyl vinyl ketone | 1.78 mmol, 0.150 mL | C(=C)C(=O)C | C4H6O
reactant | sodium methoxide | 0.5N | C[O-].[Na+]
reactant | methanol | 0.56 mmol, 1.1 mL | CO | CH4O
reactant | 2-butyl-4-chloro-6-fluoro-5-methoxy-2-(3-oxobutyl)-1-indanone | C(CCC)C1(C(C2=CC(=C(C(=C2C1)Cl)OC)F)=O)CCC(C)=O | C18H22ClFO3
reactant | pyrrolidine | 1.4 mmol, 0.117 mL | N1CCCC1 | C4H9N
reactant | acetic acid | 0.112 mmol | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2.8 mL | O1CCCC1 | C4H8O
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 9a-butyl-8-chloro-6-fluoro-7-methoxy-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 160 mg | C(CCC)C12CC3=C(C(=C(C=C3C2=CC(CC1)=O)F)OC)Cl | C18H20ClFO2
